US09024019B2
Step H: 4-amino-6-[(E)-methoxyiminomethyl]-2,5-dihydro-1,2,4-triazin-3-one
To a solution of tert-butyl 4-(tert-butoxycarbonylamino)-6-[(E)-methoxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate (12.4 g, 30.0 mmol) in MeOH (120 mL) at 0° C. was slowly added acetyl chloride (10.7 mL, 150 mmol). After completion of the addition, the reaction mixture was stirred at this temperature for another 30 min before it was allowed to warm to room temperature. After additional 20 h stirring at room temperature, the reaction mixture was carefully neutralized with sat. NaHCO3. The volatiles were removed in vacuo and the residual was repeatedly diluted with acetonitrile and evaporated. The remaining material were stirred for 10 min with hot acetonitrile and filtered. Concentration of the filtrate furnished the desired product as an off-white solid. LCMS (Method K) RT 0.42 min. [M+H]+ 172.

reactant | tert-butyl 4-(tert-butoxycarbonylamino)-6-[(E)-methoxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate | 30.0 mmol, 12.4 g | C(C)(C)(C)OC(=O)NN1C(N(N=C(C1)/C=N/OC)C(=O)OC(C)(C)C)=O | C15H25N5O6
reactant | acetyl chloride | 150 mmol, 10.7 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 120 mL | CO | CH4O
product | 4-amino-6-[(E)-methoxyiminomethyl]-2,5-dihydro-1,2,4-triazin-3-one | NN1C(NN=C(C1)/C=N/OC)=O | C5H9N5O2
